US06403595B1
To a solution of 6-(tert-butoxycarbonyl)-1-oxa-6-azaspiro[2,5]octane (17.5 g) in methanol (250 ml) was added p-toluene sulfonic acid hydrate (285 mg), and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, and to the residue was added ethyl acetate. The mixture was washed with sodium bicarbonate solution and saturated brine, dried and concentrated, and the residue was crystallized from ice-cooled hexane to give colorless solid of 1-(tert-butoxycarbonyl)-4-methoxy-4-piperidinemethanol (9.32 g).

reactant | 6-(tert-butoxycarbonyl)-1-oxa-6-azaspiro[2,5]octane | 17.5 g | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
reactant | p-toluene sulfonic acid hydrate | 285 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | 250 ml | CO | CH4O
product | 1-(tert-butoxycarbonyl)-4-methoxy-4-piperidinemethanol | 9.32 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)OC | C12H23NO4
